US07205306B2
5-chloro-1-[(1R)-1-cyclopropylpropyl]-3-(7-methoxy-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 556 using 3,5-dichloro-1-[(1R)-1-cyclopropylpropyl]-2(1H)-pyrazinone and 7-methoxy-3,4-dihydro-2H-1,4-benzoxazine as the starting materials to give an oil. 1H NMR (300 MHz, CDCl3): δ 6.98 (s, 1H), 6.94 (d, J=9.6 Hz, 1H), 6.44–6.41 (m, 2H), 4.33–4.30 (m, 2H), 4.18–4.08 (m, 3H), 3.75 (s, 3H), 1.92–1.78 (m, 2H), 1.10–1.00 (m, 1H), 0.95 (t, J=7.3 Hz, 3H), 0.81–0.77 (m, 1H), 0.60–0.48 (m, 2H), 0.38–0.20 (m, 1H); HRMS (ESI) m/z 376.1452 [(M+H)+, calcd for C19H23N3O3Cl 376.1428].

reactant | 3,5-dichloro-1-[(1R)-1-cyclopropylpropyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)[C@H](CC)C1CC1)=O | C10H12Cl2N2O
reactant | 7-methoxy-3,4-dihydro-2H-1,4-benzoxazine | COC1=CC2=C(NCCO2)C=C1 | C9H11NO2
product | 5-chloro-1-[(1R)-1-cyclopropylpropyl]-3-(7-methoxy-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)[C@H](CC)C1CC1)=O)N1CCOC2=C1C=CC(=C2)OC | C19H22ClN3O3
